US05405851
Prepared in an essentially similar fashion from methyl 3-aminophenylacetate (111 g, 0.67 mole) and potassium methanethiolate (2.68 mole) to give 3-methylthiophenylacetic acid (21.0 g). Mp=76°-77° C., 1H NMR (DMSO-d6, 200 MHz) δ: 2.44 (s, 3H, SCH3), 3.53 (s, 2H, ArCH2), 7.02-7.28 (m, 4H, Ar), 12.30 (br s, 1H, CO2H). Mass spectrum (CI-CH4): 183 (M+1, 100%). (Lit. ref.: Plant Physiol 42(11) 2596-1600 (1967).

reactant | methyl 3-aminophenylacetate | 0.67 mole, 111 g | NC=1C=C(C=CC1)CC(=O)OC | C9H11NO2
reactant | potassium methanethiolate | 2.68 mole | C[S-].[K+]
product | 3-methylthiophenylacetic acid | 21.0 g | CSC=1C=C(C=CC1)CC(=O)O | C9H10O2S
